US08709747B2
To a solution of 4,4′-[9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene-2,7-diyl]bis(2-methyl-3-butyn-2-ol) (0.363 g, 0.58 mmol) in 9 mL of toluene and 2 mL of i-PrOH, was added solid NaOH (0.15 g, 3.75 mmol). The mixture was heated under reflux for 1.5 h. After cooling, NaOH was filtered off and the solvents were evaporated and the residue was purified by column chromatography on silica gel (CH2Cl2/AcOEt 60:40) to yield 0.171 g (58%) of 2,7-diethynyl-9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene, mp 68° C.; 1H NMR (CDCl3) δ 2.37 (t, 4H, J=7.8 Hz), 2.74 (t, 4H, J=7.2 Hz), 3.17 (s, 2H), 3.20 (m, 4H), 3.35 (s, 6H), 3.39 (m, 4H), 3.54-3.47 (m, 8H), 7.50 (dd, 2H, J=7.8 Hz, J=1.3 Hz), 7.55 (d, 2H, J=1.3 Hz). 7.63 (d, 2H, J=7.8 Hz); 13C NMR (CDCl3) δ 39.5, 51.3, 59.1, 65.9, 66.8, 70.0, 70.4, 71.8, 77.9, 84.1, 120.1, 121.2, 127.0, 131.7, 140.2, 149.3. Anal. Calcd for C31H38O6 (506.63): C, 73.49; H, 7.56. Found: C, 73.59; H, 7.64.

reactant | 4,4′-[9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene-2,7-diyl]bis(2-methyl-3-butyn-2-ol) | 0.58 mmol, 0.363 g | COCCOCCOCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC(C)(O)C)C#CC(C)(O)C)CCOCCOCCOC | C37H50O8
reactant | NaOH | 3.75 mmol, 0.15 g | [OH-].[Na+]
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 2,7-diethynyl-9,9-bis[2-[2-(2-methoxyethoxy)ethoxy]ethyl]-9H-fluorene | 0.171 g, 58% | C(#C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C)(CCOCCOCCOC)CCOCCOCCOC | C31H38O6
